US04510136
Preparation of (1,1'-Biphenyl-4-yl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 2.6 g (0.010 mol) of (1,1'-biphenyl-4-yl)chloromethyldimethylsilane and 1.1 g (0.012 mol) of 1,2,4-triazole sodium salt in 5 ml of dimethylformamide was warmed to 80°-90° for 2 hours, cooled, diluted with water, and extracted with ether. The ether solution was washed with water and brine, dried over magnesium sulfate, and evaporated to leave 2.3 g of colorless solid, m.p. 79°-86°. Recrystallization from a mixture of 25 ml of hexanes and 2 ml of ethyl acetate gave 1.1 g (38%) of the title compound: m.p. 92°-93°; ir (Nujol®) 1255, 1130, 1000, 825, 760, 695 cm-1 ; nmr (CDCl3) 0.4 (6H, s), 3.9 (2H, s), 7.2-7.7 (9H, m), 7.8 (1H, s), 7.9 (1H, s); analysis for C17H19N3Si (mw 293.43):

reactant | (1,1'-biphenyl-4-yl)chloromethyldimethylsilane | 0.010 mol, 2.6 g | C1(=CC=C(C=C1)[Si](C)(C)CCl)C1=CC=CC=C1 | C15H17ClSi
reactant | 1,2,4-triazole sodium salt | 0.012 mol, 1.1 g | [Na].N1N=CN=C1
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1,1'-Biphenyl-4-yl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane | 2.3 g | C1(=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C)C1=CC=CC=C1 | C17H19N3Si
